US07691876B2
Preparation of 7-chloro-5-trifluoromethyl-1H-pyrrolo[2,3-c]pyridine
(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-carbamic acid methyl ester: Pyridine (3.98 g, 50.4 mmol) and methyl chloroformate (2.62 g, 27.7 mmol) were added at 0° C. to a solution of 3-amino-2-chloro-6-trifluoromethylpyridine (4.95 g, 25.2 mmol) in dichloromethane (100 ml). The reaction mixture was stirred for 18 h at RT, then cooled to 0° C. and treated with pyridine (3.98 g, 50.4 mmol) and methyl chloroformate (0.95 g, 10 mmol). The reaction mixture was stirred for 24 h at RT and 2.5 h at reflux, then partitioned between ethyl acetate and 10% aq. sodium hydrogencarbonate solution. The organic layer was washed with 10% aq. citric acid solution and brine, dried (MgSO4), and evaporated. Chromatography of the residue (SiO2, heptane/ethyl acetate 4:1) afforded the title compound (4.47 g, 70%). White solid, MS (EI) 219.1 (100), 254.1 (28, M+).

reactant | (2-Chloro-6-trifluoromethyl-pyridin-3-yl)-carbamic acid methyl ester | COC(NC=1C(=NC(=CC1)C(F)(F)F)Cl)=O | C8H6ClF3N2O2
reactant | Pyridine | 50.4 mmol, 3.98 g | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 27.7 mmol, 2.62 g | ClC(=O)OC | C2H3ClO2
reactant | 3-amino-2-chloro-6-trifluoromethylpyridine | 25.2 mmol, 4.95 g | NC=1C(=NC(=CC1)C(F)(F)F)Cl | C6H4ClF3N2
reactant | pyridine | 50.4 mmol, 3.98 g | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 10 mmol, 0.95 g | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 7-chloro-5-trifluoromethyl-1H-pyrrolo[2,3-c]pyridine | 4.47 g, 70% | ClC=1N=C(C=C2C1NC=C2)C(F)(F)F | C8H4ClF3N2
